US07745641B2
4-Chloro-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (1.00 g, 3.31 mmol) was dissolved in THF (40 mL), and the solution was added with TMEDA (1.10 mL, 7.28 mmol), and added with sec-butyllithium-hexane solution (0.99 mol/L, 7.36 mL, 7.28 mmol) by drops at −78° C. for 5 minutes under argon atmosphere, and the mixture was stirred for 2 hours at the same temperature. Then, the mixture was added with DMF (0.384 mL, 4.97 mmol) and warmed from −78° C. to room temperature for 3.5 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (hexane/ethyl acetate=95/5, 60/40) and preparative thin-layer chromatography (hexane/ethyl acetate=1/1) to obtain 4-chloro-3-hydroxy-7-formyl-2-(1-methyl-1-phenylethyl)isoindolinone (993 mg, yield 91%).

reactant | 4-Chloro-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 3.31 mmol, 1.00 g | ClC1=C2C(N(C(C2=CC=C1)=O)C(C)(C1=CC=CC=C1)C)O | C17H16ClNO2
reactant | TMEDA | 7.28 mmol, 1.10 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyllithium hexane | 7.28 mmol, 0.99 mol/L, 7.36 mL | C(C)(CC)[Li].CCCCCC
reactant | DMF | 4.97 mmol, 0.384 mL | CN(C)C=O | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-chloro-3-hydroxy-7-formyl-2-(1-methyl-1-phenylethyl)isoindolinone | 993 mg, yield 91% | ClC1=C2C(N(C(C2=C(C=C1)C=O)=O)C(C)(C1=CC=CC=C1)C)O | C18H16ClNO3
